US05045567
A solution of 15 g of LiAlH4 in 600 ml of diethyl ether was treated while stirring with a solution of 20 g of ethyl [[[p-(2-ethoxyethoxy)phenethyl]carbamoyl]phenyl]-acetate. After stirring for 12 hours 15 ml of water and 5 ml of 10% sodium hydroxide solution were added to the mixture. The mixture was filtered through silica gel and the filtrate was evaporated. The residue was dissolved in ethanol and treated with the equivalent amount of oxalic acid dissolved in ethanol. After adding ethyl acetate there was obtained β-[[[p-(2-ethoxyethoxy)phenethyl]amino]methyl]phenethyl alcohol oxalate m.p. 145° C.

reactant | LiAlH4 | 15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl [[[p-(2-ethoxyethoxy)phenethyl]carbamoyl]phenyl]-acetate | 20 g | C(C)OCCOC1=CC=C(CCNC(=O)C2=C(C=CC=C2)CC(=O)OCC)C=C1 | C23H29NO5
reactant | water | 15 ml | O | H2O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | β-[[[p-(2-ethoxyethoxy)phenethyl]amino]methyl]phenethyl alcohol oxalate | C(C(=O)O)(=O)O.C(C)OCCOC1=CC=C(CCNCC(CO)C2=CC=CC=C2)C=C1 | InChI=1S/C21H29NO3.C2H2O4/c1-2-24-14-15-25-21-10-8-18(9-11-21)12-13-22-16-20(17-23)19-6-4-3-5-7-19;3-1(4)2(5)6/h3-11,20,22-23H,2,12-17H2,1H3;(H,3,4)(H,5,6)
